US07402581B2
4-[1-(Diphenylmethyl)azetidin-3-yl]thiomorpholine (1.0 g, 3.1 mmol) was dissolved in CH2Cl2 under nitrogen and stirred at 0° C. during the addition of 1-chloroethyl chloroformate (1.3 g, 9.2 mmol). The mixture was stirred for 90 min and then methanol (1 mL) was added. The solution was refluxed for 20 min and the solvent was removed by evaporation. To the residue was added acetone (10 mL) followed by isopropanol (10 mL) and the mixture was then refluxed for 30 min and then placed at room temperature overnight. The mixture was cooled and the precipitate was collected by filtration. There was obtained 250 mg (51%) of 4-azetidin-3-ylthiomorpholine dihydrochloride as a pale brown solid. 1H NMR (400 MHz, DMSO-d6): 2.4-3.8 (cm, 8H), 4.0 (b, 2H), 4.3 (m, 1H), 4.5 (b, 2H) 9.2 (b, 1H), 10.4 (b, 1H).

reactant | 4-[1-(Diphenylmethyl)azetidin-3-yl]thiomorpholine | 3.1 mmol, 1.0 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCSCC1)C1=CC=CC=C1 | C20H24N2S
reactant | 1-chloroethyl chloroformate | 9.2 mmol, 1.3 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 1 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-azetidin-3-ylthiomorpholine dihydrochloride | 250 mg, 51% | Cl.Cl.N1CC(C1)N1CCSCC1 | InChI=1S/C7H14N2S.2ClH/c1-3-10-4-2-9(1)7-5-8-6-7;;/h7-8H,1-6H2;2*1H
